US07605136B2
2-[1,3]Dioxolan-2-yl-4-nitro-phenol
The solution of 25 g (149.6 mmol) of 2-hydroxy-5-nitrobenzaldehyde in 500 ml of toluene is mixed with 100 ml of ethylene glycol, 2.85 g of p-toluenesulfonic acid monohydrate, and it is refluxed in a water separator for 5 hours. After cooling, it is poured into saturated sodium bicarbonate solution, extracted several times with ethyl acetate, the combined organic extracts are washed with saturated sodium chloride solution and dried on sodium sulfate. The residue that is obtained after filtration and removal of the solvent is further reacted without being purified.

reactant | 2-hydroxy-5-nitrobenzaldehyde | 149.6 mmol, 25 g | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 2.85 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-[1,3]Dioxolan-2-yl-4-nitro-phenol | O1C(OCC1)C1=C(C=CC(=C1)[N+](=O)[O-])O | C9H9NO5
